US08802679B2
Under an argon atmosphere, a solution of 2 M isopropylmagnesium chloride in THF (5.5 ml) was cooled to −78° C., and a solution of 2,5-dibromo-3-methylpyridine (2.5 g) in THF (10 ml) was added dropwise. After stirring at the same temperature for 30 minutes, a solution of morpholine-4-carboaldehyde (1.26 g) in THF (5 ml) was added dropwise thereto, followed by elevating the temperature to 0° C. over 30 minutes, followed by stirring at 0° C. for 2 hours. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/EtOAc) to obtain 6-bromo-5-methyl nicotine aldehyde (1.42 g).

reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | 2,5-dibromo-3-methylpyridine | 2.5 g | BrC1=NC=C(C=C1C)Br | C6H5Br2N
reactant | morpholine-4-carboaldehyde | 1.26 g | N1(CCOCC1)C=O | C5H9NO2
reactant | water | O | H2O
solvent | THF | 5.5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-bromo-5-methyl nicotine aldehyde | 1.42 g | BrC1=NC=C(C=O)C=C1C | C7H6BrNO
